US07399867B2
Dissolve 2,2-dimethyl-propionic acid 2,3-dibromo-benzo[b]thiophen-6-yl ester (32 g, 82 mmol) in ethanol (725 mL), add 50% aqueous solution of potassium hydroxide (39 mL, 328 mmol) and heat to reflux for 4 hours. Concentrate in vacuo to ½ volume, partition between ethyl acetate (500 mL) and saturated aqueous ammonium chloride (500 mL), separate layers, wash organic with saturated aqueous ammonium chloride (2×500 mL), and brine (300 mL). Dry with sodium sulfate, filter, and concentrate in vacuo to give 25.5 g of 2,3-dibromo-benzo[b]thiophen-6-ol (100%).

reactant | 2,2-dimethyl-propionic acid 2,3-dibromo-benzo[b]thiophen-6-yl ester | 82 mmol, 32 g | BrC1=C(C2=C(S1)C=C(C=C2)OC(C(C)(C)C)=O)Br | C13H12Br2O2S
reactant | potassium hydroxide | 328 mmol, 39 mL | [OH-].[K+]
solvent | ethanol | 725 mL | C(C)O | C2H6O
product | 2,3-dibromo-benzo[b]thiophen-6-ol | 25.5 g, 100% | BrC1=C(C2=C(S1)C=C(C=C2)O)Br | C8H4Br2OS
